US08198279B2
1-(4-(2,3-Dioxo-1,2,3,4-tetrahydropyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea (AA-072)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to give the title compound as a beige solid. Yield: 52 mg (51%).

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[3,2-b]pyrazine-2,3(1H,4H)-dione | NC1=C(C=C(OC2=CC=NC3=C2NC(C(N3)=O)=O)C=C1)F | C13H9FN4O3
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(4-(2,3-Dioxo-1,2,3,4-tetrahydropyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | O=C1C(NC2=C(N1)C(=CC=N2)OC2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F)=O | C21H12F5N5O4
